US03953402
3,5-di tert.butyl-4-hydroxyphenyl hydrogen maleate was prepared by stirring a mixture of 15.5 grams of 2,6-di tert.butyl hydroquinone, 10 grams of trifluoroacetic acid and 8.6 grams maleic anhydride for 12 hours at 35° C. to 40° C. Addition of 100 milliliters of water resulted in the precipitation of a light brown paste which crystallized when mixed with petroleum ether. The solid was filtered off and washed twice with petroleum ether yielding 10.5 grams of product melting at 120° C. to 125° C.

reactant | 2,6-di tert.butyl hydroquinone | 15.5 grams | C(C)(C)(C)C1=C(O)C(=CC(=C1)O)C(C)(C)C | C14H22O2
reactant | trifluoroacetic acid | 10 grams | FC(C(=O)O)(F)F | C2HF3O2
reactant | maleic anhydride | 8.6 grams | C1(\C=C/C(=O)O1)=O | C4H2O3
solvent | water | 100 milliliters | O | H2O
product | 3,5-di tert.butyl-4-hydroxyphenyl hydrogen maleate | C(\C=C/C(=O)O)(=O)OC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C18H24O5
